US07838544B2
A solution of methylamine in tetrahydrofuran (THF) (2.0 M, 3.5 mL) was mixed with triethylamine (2.1 mL, 15 mmol). The resulting mixture was added to a solution of 1-(4-chlorophenyl)cyclopropanecarbonyl chloride in methylene chloride (15.0 mL) at 0° C. The resulting mixture was stirred at room temperature (about 25° C.) for 30 min, and was then quenched with saturated sodium bicarbonate (25 mL). The quenched mixture was extracted with ethyl acetate (3×40 mL). The combined ethyl acetate extracts were washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated under reduced pressure to provide the product, 1-(4-chlorophenyl)-N-methylcyclopropanecarboxamide, which was used in next step without further purification.

reactant | methylamine | CN | CH5N
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-chlorophenyl)cyclopropanecarbonyl chloride | ClC1=CC=C(C=C1)C1(CC1)C(=O)Cl | C10H8Cl2O
solvent | tetrahydrofuran | 2.0 M, 3.5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 15.0 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-N-methylcyclopropanecarboxamide | ClC1=CC=C(C=C1)C1(CC1)C(=O)NC | C11H12ClNO
